US04868061
A solution of 0.02 mol N-2-butenylglycine ethyl ester, prepared as described by S. B. Hyeon, I. Nagai, H. Iesaka, T. Kajita, and M. Furushimain European patent application No. 181,494, in 40 mL of THF is added dropwise to a solution of 0.02 mol of 4-isocyanatobutyrophenone, prepared as described by E. E. Kilbourn, D. L. Peardon, and J. E. Ware in U.S. Pat.No. 3,931,203, and 5 mL of pyridine in 40 mL of THF, and the reaction mixture is stirred for 3 hours. The solvent is then removed by rotary evaporator. The residue is dispersed in 50 mL of CH3OH, and 0.022 mol of hydroxylamine hydrochloride and 0.06 mol of trimethyl orthoformate are added. The reaction mixture is heated to reflux for 1 hour. The solvent is removed by rotary evaporator to give the product, N-[4-(1-hydroxyiminobutyl)phenyl]-N'-(2-butenyl)-N'-ethoxycarbonylmethylurea.

reactant | N-2-butenylglycine ethyl ester | 0.02 mol | C(C)OC(CNCC=CC)=O | C8H15NO2
reactant | 4-isocyanatobutyrophenone | 0.02 mol | N(=C=O)CCCC(=O)C1=CC=CC=C1 | C11H11NO2
reactant | hydroxylamine hydrochloride | 0.022 mol | Cl.NO
reactant | trimethyl orthoformate | 0.06 mol | C(OC)(OC)OC | C4H10O3
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-[4-(1-hydroxyiminobutyl)phenyl]-N'-(2-butenyl)-N'-ethoxycarbonylmethylurea | ON=C(CCC)C1=CC=C(C=C1)NC(=O)N(CC(=O)OCC)CC=CC | C19H27N3O4
